### PR TITLE
Preserved EVM state relation

### PR DESCRIPTION
**Pull request by jkopanski**

### CODE REVIEW

File: Clear/Wheels.lean [hunk 1]
```diff
@@ -1,7 +1,17 @@
...
 import Mathlib.Tactic.ApplyAt
 
+instance instRelInter {α β} : Inter (Rel α β) where
+  inter r s := λ a b ↦ r a b ∧ s a b
+
+def Rel.inter {α β} (r : α → β → Prop) (s : α → β → Prop) : α → β → Prop :=
+  λ a b ↦ r a b ∧ s a b
+
+instance instFunInter {α β : Type} : Inter (α → β → Prop) where
+  inter r s := λ a b ↦ r a b ∧ s a b
```
Comment (Julek) [inline Clear/Wheels.lean:13]: Why not just use the previous def here?

File: Clear/Wheels.lean [hunk 2]
```diff
@@ -1,7 +1,17 @@
...
+import Mathlib.Data.Rel
 import Mathlib.Tactic.ApplyAt
 
+instance instRelInter {α β} : Inter (Rel α β) where
+  inter r s := λ a b ↦ r a b ∧ s a b
+
+def Rel.inter {α β} (r : α → β → Prop) (s : α → β → Prop) : α → β → Prop :=
+  λ a b ↦ r a b ∧ s a b
+
+instance instFunInter {α β : Type} : Inter (α → β → Prop) where
```
Comment (Julek) [inline Clear/Wheels.lean:12]: The Lean oracle @Ferinko has spoken.

File: Clear/Utilities.lean [hunk 3]
```diff
@@ -82,4 +82,48 @@ lemma evm_eq_symm_of_isPure_ok_ok {evm evm'} {vs vs'} (h : isPure (Ok evm vs) (O
   symm
   aesop_spec
 
+def preservesEvm (s₀ : State) (s₁ : State) : Prop :=
```
Comment (Julek) [inline Clear/Utilities.lean:85]: I think this predicate should also compare evm states in the case where the second state is a `Checkpoint` no? :slightly_smiling_face:

**Review by Julek — CHANGES_REQUESTED** [review]
See comments

File: Clear/EVMState.lean [hunk 4]
```diff
@@ -163,6 +164,60 @@ instance : Inhabited EVMState :=
...
+  evm.hash_collision = evm'.hash_collision := by
+  rw [preserved_def] at h
+  exact h.2.1
+
+def preserved_execution_env {evm evm' : EVMState} (h : preserved evm evm') :
+  evm.execution_env = evm'.execution_env := by
+  rw [preserved_def] at h
+  exact h.2.2.1
+
+def mono_keccak_map {evm evm' : EVMState} (h : preserved evm evm') :
```
Comment (Ferinko) [inline Clear/EVMState.lean:201]: This is just a projection function, it's not a monotonicity statement. It says that you can take out the last component of and.
